US06255304B1
(S)-N-[[3-[3-Fluoro-4-(tetrahydro-1,1-dioxido-2H-thiopyran-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]ethanethioamide
A solution of ethyl dithioacetate (100 mL, 0.876 mmol) and sodium fluoride (37 mg, 0.876 mmol) in ethanol (8.8 mL) under a nitrogen atmosphere was treated with a mixture of (S)-(−)-3-[3-fluoro-4-(tetrahydro-1,1-dioxido-2H-thiopyran-4-yl)phenyl]-5-aminomethyl-2-oxazolidinone, as prepared in Step 1, (300 mg, 0.876 mmol) and aqueous potassium hydroxide (1M, 0.88 mL) in ethanol (43.8 mL). The resulting mixture was stirred at ambient temperature for 26 hours, during which additional ethyl dithioacetate (50 mL, 0.438 mmol), sodium fluoride (19 mg, 0.438 mmol), aqueous potassium hydroxide (1M, 0.44 mL) and ethanol (3.0 mL) was added, and was then diluted with methylene chloride (150 mL), washed with water (50 mL), aqueous potassium hydrogen sulfate (1M, 50 mL) and brine (25 mL), dried over anhydrous sodium sulfate and concentrated in vacuo. The crude product was recrystallized from methylene chloride/diethyl ether to give the title compound, mp 186-187° C. (dec.).

reactant | ethyl dithioacetate | 0.876 mmol, 100 mL | C(C)(=S)SCC | C4H8S2
reactant | sodium fluoride | 0.876 mmol, 37 mg | [F-].[Na+]
reactant | (S)-(−)-3-[3-fluoro-4-(tetrahydro-1,1-dioxido-2H-thiopyran-4-yl)phenyl]-5-aminomethyl-2-oxazolidinone | FC=1C=C(C=CC1C1CCS(CC1)(=O)=O)N1C(O[C@H](C1)CN)=O | C15H19FN2O4S
reactant | potassium hydroxide | 1M, 0.88 mL | [OH-].[K+]
reactant | ethyl dithioacetate | 0.438 mmol, 50 mL | C(C)(=S)SCC | C4H8S2
reactant | sodium fluoride | 0.438 mmol, 19 mg | [F-].[Na+]
reactant | potassium hydroxide | 1M, 0.44 mL | [OH-].[K+]
solvent | ethanol | 8.8 mL | C(C)O | C2H6O
solvent | ethanol | 43.8 mL | C(C)O | C2H6O
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | (S)-N-[[3-[3-Fluoro-4-(tetrahydro-1,1-dioxido-2H-thiopyran-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]ethanethioamide | FC=1C=C(C=CC1C1CCS(CC1)(=O)=O)N1C(O[C@H](C1)CNC(C)=S)=O | C17H21FN2O4S2
